US05910494
(a) 2-Hydroxy-4,5-Dimethoxy-4'-fluorobenzophenone
A 1.0M solution of boron trichloride(142 ml) in dichioromethane was added to 4-fluorobenzoyl chloride(16.8 ml) in benzene (200 ml). Next, 3,4-dimethoxyphenol(20.0 g) in benzene (100 ml) was added and the reaction mixture was stirred at room temperature for 2 hours. The mixture was then poured onto ice water and allowed to stir for 15 minutes, then 1N HCl (500 ml) was added and stirred at room temperature for 17 hours. The reaction mixture was extracted with EtOAc, the EtOAc was separated, concentrated and dried to give the title product(41.7 g) as an orange solid. 1H NMR consistent with desired structures.

reactant | boron trichloride | 142 ml | B(Cl)(Cl)Cl | BCl3
reactant | 4-fluorobenzoyl chloride | 16.8 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 3,4-dimethoxyphenol | 20.0 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | HCl | 1N, 500 ml | Cl | ClH
solvent | dichioromethane | ClCCl | CH2Cl2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-Hydroxy-4,5-Dimethoxy-4'-fluorobenzophenone | 41.7 g | OC1=C(C(=O)C2=CC=C(C=C2)F)C=C(C(=C1)OC)OC | C15H13FO4
